US07312225B2
13a) Production of [5-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-pentyl]-carbamic acid-benzyl ester
A solution of 860 mg (3.8 mmol) of 5-bromo-2,4-dichloro-pyrimidine and 1.2 ml (8.5 mmol) of triethylamine in 6 ml of acetonitrile is mixed at 0° C. with 1.0 g (3.7 mmol) of (5-amino-pentyl)-carbamic acid-benzyl ester. The reaction mixture is slowly heated to room temperature while being stirred by removal of the ice bath. After 60 hours, it is mixed with water and then extracted with ethyl acetate (2×). The combined organic phases are dried (Na2SO4), filtered and concentrated by evaporation. The residue that is formed is purified by chromatography (hexane/ethyl acetate 1:1). 1.2 g (2.8 mmol, corresponding to 77% of theory) of the product is obtained.

reactant | 5-bromo-2,4-dichloro-pyrimidine | 3.8 mmol, 860 mg | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | triethylamine | 8.5 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | (5-amino-pentyl)-carbamic acid-benzyl ester | 3.7 mmol, 1.0 g | C(C1=CC=CC=C1)OC(NCCCCCN)=O | C13H20N2O2
reactant | water | O | H2O
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | [5-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-pentyl]-carbamic acid-benzyl ester | C(C1=CC=CC=C1)OC(NCCCCCNC1=NC(=NC=C1Br)Cl)=O | C17H20BrClN4O2
